US04143139
The 3,5-dimethoxybenzyl triphenylphosphonium bromide is prepared by refluxing a mixture of 3,5-dimethoxybenzyl bromide (12 g.) and triphenylphosphine (14.2 g.) in acetonitrile (200 ml.) for 1 hour. The reaction mixture is then cooled and the crystalline product recovered by filtration, washed with ether and dried (20 g.); m.p. 269°-270° C.

reactant | 3,5-dimethoxybenzyl bromide | 12 g | COC=1C=C(CBr)C=C(C1)OC | C9H11BrO2
reactant | triphenylphosphine | 14.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 3,5-dimethoxybenzyl triphenylphosphonium bromide | [Br-].COC=1C=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C(C1)OC | InChI=1S/C27H26O2P.BrH/c1-28-23-18-22(19-24(20-23)29-2)21-30(25-12-6-3-7-13-25,26-14-8-4-9-15-26)27-16-10-5-11-17-27;/h3-20H,21H2,1-2H3;1H/q+1;/p-1
